Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
cellulitis with abscess of right ring finger s/p burn
 
Major Surgical or Invasive Procedure:
Finger I&D ___

 
History of Present Illness:
Mr. ___ is a ___ male with a past medical history of
atrial fibrillation on xarelto, HTN, and HLD, who presented with
a burn on his right hand.

He burned his finger 5 days prior to presentation after spilling
hot water on the finger while making tea. The area become red 
and
blistered but then initially began to improve. However. the
redness and swelling began worsening and he had drainage from 
the
wound. No fevers. He initially presented to ___ and was
transferred to ___ for hand surgery evaluation. At ___ 
he
received IV cefazolin and a tetanus shot.

In the ___ ED, he was seen by hand surgery who performed a
bedside I+D of an abscess that had formed at the site of the
burn. Per notes approximately 3cc of purulent material was
drained. He was started on IV vancomycin and IV unasyn. Decision
was made to admit for further IV antibiotics.

On the floor, he feels well and denies any pain at the moment.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Atrial fibrillation on xarelto
HTN
HLD
Chronic back pain
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: R hand dressed and ___ and ___ digits not visible, 
dressing
c/d/I. Moves all fingers, sensation intact
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
SKIN: R fourth finger with improving erythema, packing in place. 
 +full ROM with intact sensation
 
Pertinent Results:
ADMISSION LABS:

___ 10:33PM BLOOD WBC-9.7 RBC-4.42* Hgb-13.2* Hct-37.3* 
MCV-84 MCH-29.9 MCHC-35.4 RDW-12.9 RDWSD-39.4 Plt ___
___ 10:33PM BLOOD Glucose-108* UreaN-22* Creat-1.0 Na-140 
K-3.9 Cl-104 HCO3-24 AnGap-12

HAND X-RAY (RIGHT) ___:
FINDINGS:  
  
Overlying support material limits detailed evaluation.  No 
fracture or 
dislocation is seen.  Moderate to severe degenerative changes 
are seen at the 
first carpometacarpal joint.  Moderate degenerative changes are 
seen at the 
triscaphe joint and in the DIP joints.    No suspicious lytic or 
sclerotic 
lesion is identified. No radio-opaque foreign bodies are 
detected. 
  
IMPRESSION:  
  
No radiopaque foreign body seen. 

DISCHARGE LABS:

___ 06:10AM BLOOD WBC-7.6 RBC-4.54* Hgb-13.2* Hct-38.4* 
MCV-85 MCH-29.1 MCHC-34.4 RDW-12.9 RDWSD-39.6 Plt ___
___ 07:15AM BLOOD WBC-5.0 RBC-4.40* Hgb-12.7* Hct-37.3* 
MCV-85 MCH-28.9 MCHC-34.0 RDW-13.0 RDWSD-40.1 Plt ___
___ 07:15AM BLOOD Glucose-112* UreaN-22* Creat-0.9 Na-142 
K-3.8 Cl-104 HCO3-25 AnGap-13
___ 07:15AM BLOOD Calcium-8.4 Phos-3.0 Mg-1.9
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Mr. ___ is a ___ male with a past 
medical history of atrial fibrillation on xarelto, HTN, and HLD, 
presenting with right ring finger cellulitis with abscess after 
a burn.

ACUTE/ACTIVE PROBLEMS:
# R hand burn c/b abscess with cellulitis: s/p bedside I+D with
hand surgery. Culture with MSSA only. He received 2 days of IV 
vanc/unasyn, this was narrowed to Doxycycline twice daily to 
complete a total of 10 days. He will need to do twice daily 
dressing changes at home (wet to moist packing with gauze), a 
split was deferred as the patient was unable to use his crutches 
and self-cath himself with the splint on. He was taught how to 
do the dressing changes and will have ___ to assist with this.  
He will need to see Dr. ___ surgery) next ___, 
number provided. He was given Tylenol and a limited prescription 
for oxycodone for pain control. 

# Pyuria - no symptoms and urine culture <10K organisms. 

CHRONIC/STABLE PROBLEMS:

# Atrial fibrillation:
- continue home xarelto, metoprolol

# HTN:
- continue home losartan, amlodipine, metoprolol

# HLD:
- continue home atorvastatin

# Back pain
- needs follow up with Dr. ___ spine referral

TRANSITIONAL ISSUES:
- Doxycycline twice daily through ___ (last dose ___ pm)
- twice daily wet-to-moist packing with gauze and elevation of 
the right ring finger
- follow up with Hand surgery (Dr. ___ next ___

Greater than 30 minutes spent on d/c related activities
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
5. amLODIPine 5 mg PO DAILY 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg one 
tablet(s) by mouth every six hours Disp #*30 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg one tablet(s) by mouth every 
twelve hours Disp #*15 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
This medication causes sedation and constipation, please use 
sparingly.  
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every eight 
hours as needed for moderate pain Disp #*10 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7.  Losartan Potassium 50 mg PO DAILY  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Rivaroxaban 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right finger cellulitis with abscess s/p burn
HTN
Atrial fibrillation
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for an infection and abscess of the right ring 
finger after a burn.  The abscess was drained and cultured, 
showing infection by Staph.  You will need to complete a total 
of 10 days of antibiotics (8 days left) with a medication called 
Doxycycline.  This medication should be taken twice daily 
(morning and evening) and you should avoid excessive time in the 
sunlight while on this medication.

Please make sure to change the dressings TWICE daily as 
instructed (wet to moist packing, then gauze, and then elevate). 
 As you need your hand to be able to do your activities, we are 
not placing a sling.

It is very important you see hand surgery as noted below next 
week (___) - please call tomorrow to schedule this 
appointment!

We wish you the best,
Your ___ Team
 
Followup Instructions:
___